Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dapsone / methotrexate
 
Attending: ___.
 
Chief Complaint:
admit for MTX
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ w/ HIV on HAART, CAD s/p STEMI
___ s/p PCI, and CNS lymphoma dx ___ presents for third 
cycle
of 2-monthly HD MTX. 

The patient previously undwerwent craniotomy and brain biopsy 
c/w
CNS lymphoma and was started on induction methotrexate starting
___. His last opthal eval did not show evidence of lymphoma
on eye exam and he was given techniques for trying to focus his
eyes. Last MRI brain ___ which showed no evidence of
recurrence.

He is here today for third high-dose MTX since spacing out to
every 2-months. He has been doing well since recent admission.
Only reports some occasional frontal headaches from sinus
congestion. No fevers, chill, naisea, vomitting, diarrhea,
constipatin, angina, dyspnea or any other symptom. 

REVIEW OF SYSTEMS: +ve per HPI. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY (updated): His neurological problem began
at the end of ___ when he experienced imbalance and
blurry vision.  Initially, his gait imbalance was intermittent,
mostly occuring after eating and lasting for a couple of hours. 
However, it progressed to a constant fashion.  He also developed
blurry vision and he had to close one eye in order to see
clearly.  On ___, his imbalance was severe enough that his
brother, ___, took him to ___.  He had a head CT that showed a mass at the brainstem. 

He was referred to see Dr. ___ on ___ who
admitted him to the Neurosurgery Service.  A gadolinium-enhanced
head MRI on ___ showed a homogeneously enhancing mass at 
the
lateral recess on the right side of the fourth ventricle.  He
then underwent a stereotaxic biopsy of the mass by Dr. ___ on ___.  After biopsy he remains neurologically
stable.  He then started high-dose methotrexate on ___.
(1) stereotaxic biopsy of the mass by Dr. ___ on
___
(2) an echocardiogram that was performed on ___ showing
apical hypokinesis but his ejection fraction remained at 55%
(3) started high-dose methotrexate on ___ and had 5
induction cycles so far
(4) started re-induction high-dose methtorexate on ___ and
had 3 cycles
(5) started maintenance high-dose methotrexate on ___ at
monthly interval and had 4 cycles
(6) started every 2-month maintenance high-dose methotrexate on
___ and had 1 cycle.
(7) got second  every 2-month maintenance high-dose methotrexate
on 
___

PAST CARDIAC HISTORY:
His cardiac history is significant for a myocardial infarction
with inferior ST elevation that occurred in ___. He
subsequently received a cardiac stent in the large obtuse
marginal branch.  He also had a chronically occluded LAD
collateralized from the right coronary artery.  An exercise
stress test in ___ showed a fixed moderate myocardial
perfusion defect in the anteroapical wall with no evidence of
reversible ischemia and echocardiogram.  His ejection fraction
was 55% with severe apical hypokinesis.  He had a repeat
echocardiogram on ___ that showed apical hypokinesis but 
his
ejection fraction remained at 55%.
 
HIV HISTORY (updated):
He is HIV positive from heterosexual contact.  He was on HAART
therapy from ___ to ___, and subsequently stopped from ___ to
___, and then resumed in ___.  His viral load is undetectable
when it was last checked at ___ in
___.  He sees Dr. ___ and ___ there.  He was on Truvada and 
Kaletra
but changed to stribild in ___.

 
Social History:
___
Family History:
His parents are alive; his mother has
pre-diabetes while his father has glaucoma and prostate cancer. 
He has 6 brothers, one of the, has kidney problem.  He has 3
daughters and they are all healthy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General:  NAD
VITAL SIGNS: 98.6 104/68 78 16 99 ra ___
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly
CV:  RR, NL S1S2 no S3S4 MRG, port in palce, looks non-infected
PULM:  CTAB
ABD:  BS+, soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal
adenopathy
SKIN:  No rashes or skin breakdown
NEURO:  Cranial nerves II-XII are within normal limits excluding
visual acuity which was not assessed, no nystagmus; strength is
___ of the proximal and distal upper and lower extremities

DISCHARGE EXAM:
General:  NAD
VITAL SIGNS:  97.6  106/64  53  18  94%RA
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary adenopathy, no thyromegaly
CV:  RR, NL S1S2 no S3S4 MRG
PULM:  CTAB
ABD:  BS+, soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis; no inguinal
adenopathy
SKIN:  No rashes or skin breakdown
NEURO:  ___ strength throughout, PERRLA, EOMI

 
Pertinent Results:
___ 11:43AM BLOOD WBC-4.1 RBC-4.50* Hgb-14.2 Hct-39.7* 
MCV-88 MCH-31.6 MCHC-35.7* RDW-13.2 Plt ___
___ 05:59AM BLOOD WBC-7.3 RBC-4.37* Hgb-13.8* Hct-37.7* 
MCV-86 MCH-31.5 MCHC-36.4* RDW-12.8 Plt ___
___ 05:59AM BLOOD Neuts-82.6* Lymphs-14.8* Monos-1.8* 
Eos-0.6 Baso-0.1
___ 11:43AM BLOOD Glucose-118* UreaN-15 Creat-1.0 Na-137 
K-3.6 Cl-103 HCO3-24 AnGap-14
___ 05:59AM BLOOD Glucose-118* UreaN-10 Creat-0.9 Na-140 
K-3.5 Cl-101 HCO3-32 AnGap-11
___ 11:43AM BLOOD ALT-25 AST-21 LD(LDH)-134 AlkPhos-68 
TotBili-0.5
___ 05:59AM BLOOD ALT-148* AST-45* LD(LDH)-155 AlkPhos-65 
TotBili-0.4
___ 05:59AM BLOOD Calcium-8.4 Phos-3.8 Mg-2.2
___ 06:12AM BLOOD mthotrx-0.96
___ 05:59AM BLOOD mthotrx-0.12
___ 06:10PM BLOOD mthotrx-LESS THAN 
 
Brief Hospital Course:
ASSESSMENT AND PLAN:Mr ___ is a ___ yr old male with hx HIV 
on HAART, hx CAD w/ STEMI s/p PCI on plavix as well as CNS 
lymphoma now in remission on HD-MTX.

# CNS Lymphoma:  Presented with imbalance and double vision, 
symptoms now much improved. In ongoing remission w/ resolution 
of R cerebellar enhancement. Started cycle 7 maintenance 
high-dose methotrexate (8g/m2) now given at 2-month interval on 
___. contd hydration and urine alkalinization with sodium 
bicarb to
maintain urine pH >8. Increased bicarb rate from 150/hr to 
200/hr per patient request as not tolerating tabs too well. 
monitored I/O, fluid status, Cr closely. Started leucovorin 
rescue 24 hrs after MTX dose completed. DCd ___ when MTX <0.05 
or tomorrow AM.

# Hx HIV - Pt on HAART therapy thru ___ 
___. Taken off bactrim. Contd stribild

# Hx Herpes Zoster Eruption at Left S1-2 Dermatomes: stable, 
continued prophylactic acyclovir

# Coronary Artery Disease:  hx STEMI s/p PCI to large obtuse 
marginal. Currently no active cardiac symptoms. maintained on 
ASA and plavix.  Did have recent nonexertional chest pain most 
c/w GERD. Most recent EF 55% ___ but had some regional and 
apical HK. contd metoprolol, plavix but hold statin. Held ASA w/ 
MTX and resumed on discharge

# GERD - stable, rarely uses ppi - continued PPI in house

# Hx HTN - stable held lisinopril on MTX resumed on DC
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 800 mg PO BID 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. LOPERamide 2 mg PO QID:PRN diarrhea 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Lisinopril 5 mg PO DAILY 
9. Pantoprazole 40 mg PO Q24H 
10. Stribild (elvitegr-cobicist-emtric-tenof) ___ mg 
oral qd 

 
Discharge Medications:
1. Acyclovir 800 mg PO BID 
2. Clopidogrel 75 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Stribild (elvitegr-cobicist-emtric-tenof) ___ mg 
oral qd 
5. Aspirin 81 mg PO DAILY 
6. Atorvastatin 80 mg PO DAILY 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 
8. Lisinopril 5 mg PO DAILY 
9. Pantoprazole 40 mg PO Q24H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CNS Lymphoma
HIV
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to for chemotherapy which you tolerated 
without complications.
 
Followup Instructions:
___